US07605269B2
A mixture of N-hydroxy-2,4-dimethoxy-benzamidine (98 mg, 0.50 mmol), (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid (111 mg, 0.50 mmol), TBTU (178 mg, 0.55 mmol) and DIPEA (646 mg, 5 mmol) in DMF (4 mL) is stirred at rt for 45 min, then at 110° C. for 1 h. The reaction mixture is directly subjected to prep. HPLC purification (Phenomenex Aqua 75×30 mm, gradient with acetonitrile/water containing 0.5% formic acid) to give 3-(2,4-dimethoxy-phenyl)-5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazole (19 mg) as a colourless lyophilisate; LC-MS: tR=1.17 min, [M+1]+=383.13; 1H NMR (CDCl3): δ 7.89 (d, J=8.8 Hz, 1H), 6.46 (dd, J=2.3, 8.8 Hz, 1H), 6.43 (d, J=2.3 Hz, 1H), 3.83 (s, 3H), 3.74 (s, 3H), 2.96 (dd, J=5.9, 18.8 Hz, 1H), 2.80 (d, J=18.8 Hz, 1H), 2.29 (s, 3H), 1.88-1.78 (m, 2H), 1.02 (s, 3H), 0.63 (s, 3H).

reactant | N-hydroxy-2,4-dimethoxy-benzamidine | 0.50 mmol, 98 mg | ONC(C1=C(C=C(C=C1)OC)OC)=N | C9H12N2O3
reactant | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid | 0.50 mmol, 111 mg | CC1([C@@H]2[C@H]1CC1=C(SC(=C21)C)C(=O)O)C | C12H14O2S
reactant | TBTU | 0.55 mmol, 178 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 5 mmol, 646 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-(2,4-dimethoxy-phenyl)-5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazole | 19 mg | COC1=C(C=CC(=C1)OC)C1=NOC(=N1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C21H22N2O3S
